US05990101
A 24.0 ml portion of trifluoroacetic acid was added to 4.791 g of 4-allyloxycarbonylamino-2-(N-t-butoxycarbonylamino)methylthiazole, and the mixture was then stirred at room temperature for 50 minutes. The reagent was evaporated under reduced pressure to obtain a dark red oil, and this oil was then dissolved in 50 ml of dichloromethane and 50 ml of distilled water, followed by adjustment to pH 5 with sodium bicarbonate. A mixed solution of 7.2 ml of anhydrous acetic acid and 14.4 ml of formic acid was added dropwise to the solution at room temperature over 15 minutes under vigorous stirring. After the pH of the solution was adjusted to 5 again, it was stirred for 2.5 hours. Furthermore, a mixed solution of 2.9 ml of anhydrous acetic acid and 5.8 ml of formic acid was added dropwise to the solution over 25 minutes, and adjustment to pH 5 was carried out with sodium bicarbonate again, followed by stirring for 2.5 hours. After the addition of 250 ml of dichloromethane and sufficient shaking, the resulting precipitate was collected by filtration, and from the filtrate, the organic layer was separated, dried (magnesium sulfate), and then filtered. This filtrate was combined with a liquid eluted from the precipitate with a dichloromethane-methanol mixture solvent, and the solvent was then evaporated under reduced pressure to obtain 3.408 g of 4-allyloxycarbonylamino-2-(formylamino)methylthiazole as a light orange powder.

reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-allyloxycarbonylamino-2-(N-t-butoxycarbonylamino)methylthiazole | 4.791 g | C(C=C)OC(=O)NC=1N=C(SC1)CNC(=O)OC(C)(C)C | C13H19N3O4S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | water | 50 ml | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | formic acid | 5.8 ml | C(=O)O | CH2O2
solvent | acetic acid | 2.9 ml | C(C)(=O)O | C2H4O2
solvent | formic acid | 14.4 ml | C(=O)O | CH2O2
solvent | acetic acid | 7.2 ml | C(C)(=O)O | C2H4O2
product | 4-allyloxycarbonylamino-2-(formylamino)methylthiazole | 3.408 g | C(C=C)OC(=O)NC=1N=C(SC1)CNC=O | C9H11N3O3S
